US06369091B1
2-(4-Nitrophenyl)-5-trifluoromethyl benzimidazole was synthesized as follows: 1,2-diamino-4-trifluoromethylbenzene (1.76 g, 10.0 mmole) was mixed with 4-nitrobenzoic acid (1.67 g, 9.8 mmole), dissolved in POCl3 (12 ml), and heated to reflux for 2.5 hours. The reaction mixture was cooled and cautiously poured onto ice. The resulting solid was filtered, washed with NaHCO3 and used without further purification.

reactant | 1,2-diamino-4-trifluoromethylbenzene | 10.0 mmole, 1.76 g | NC1=C(C=C(C=C1)C(F)(F)F)N | C7H7F3N2
reactant | 4-nitrobenzoic acid | 9.8 mmole, 1.67 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
solvent | POCl3 | 12 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-(4-Nitrophenyl)-5-trifluoromethyl benzimidazole | [N+](=O)([O-])C1=CC=C(C=C1)C=1NC2=C(N1)C=CC(=C2)C(F)(F)F | C14H8F3N3O2
